US04094870
To a solution of 2.5 g of 1,3-dihydro-5-(2-chlorophenyl)-7-chloro-2H-1,4-benzodiazepine-2-thione in a solvent mixture comprising 10 ml of a 10% aqueous sodium hydroxide solution and 10 ml of methanol is added dropwise under ice cooling with stirring an aqueous solution of 1.7 g of N,N-dimethyl-2-chloroethylamine hydrochloride, and the resulting mixture is stirred at room temperature for 2.5 hours. The reaction mixture is diluted with water and extracted with ethyl acetate. The extract is rinsed with a 5% aqueous sodium hydroxide solution, washed with water and then dried over magnesium sulfate. The solvent is distilled off from the solution to obtain as the residue 2.7 g of an oily 2-(2-dimethylaminoethylthio)-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine. The oily product thus obtained is treated, according to usual procedure, with maleic acid and recrystallized from an isopropyl alcohol-acetone mixture to obtain 2.6 g of 2-(2-dimethylaminoethylthio)-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine maleate, m.p. 140°-142° C.

reactant | 1,3-dihydro-5-(2-chlorophenyl)-7-chloro-2H-1,4-benzodiazepine-2-thione | 2.5 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)Cl)=S | C15H10Cl2N2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 10 ml | CO | CH4O
reactant | N,N-dimethyl-2-chloroethylamine hydrochloride | 1.7 g | Cl.CN(C)CCCl
solvent | water | O | H2O
product | 2-(2-dimethylaminoethylthio)-5-(2-chlorophenyl)-7-chloro-3H-1,4-benzodiazepine | 2.7 g | CN(CCSC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl)C | C19H19Cl2N3S
